US08258144B2
To a suspension of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (105 mg, 0.560 mmol) in CH2Cl2 (7 mL) at room temperature, NBS (109 mg, 0.610 mmol) was added. The mixture was stirred at room temperature for 18 h. CH2Cl2 was removed in vacuo. The residue was partitioned between water and EtOAc. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give 5-bromo-2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (142 mg).

reactant | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 0.560 mmol, 105 mg | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
reactant | NBS | 0.610 mmol, 109 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 142 mg | BrC1=CNC=2N=C(N=C(C21)Cl)Cl | C6H2BrCl2N3
